US08871753B2
Step B: N-{3-[2-(2-Aminopyridin-4-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [4-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate (88 mg, 0.20 mmol) in 1,4-dioxane (0.50 mL) was added 4 M hydrogen chloride in 1,4-dioxane (2.0 mL). The resultant reaction mixture was stirred at 40° C. for 1 hour. The reaction mixture was concentrated under vacuum to give the desired product as a very hygroscopic white powder (83 mg, 100%). LCMS for C17H16ClFN5 (M+H)+: m/z=344.1.

reactant | tert-butyl [4-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 0.20 mmol, 88 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O)F | C22H23ClFN5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(2-Aminopyridin-4-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride | Cl.Cl.NC1=NC=CC(=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | InChI=1S/C17H15ClFN5.2ClH/c18-17-22-10-14(19)16(24-17)23-13-3-1-2-11(8-13)4-5-12-6-7-21-15(20)9-12;;/h1-3,6-10H,4-5H2,(H2,20,21)(H,22,23,24);2*1H
